US05863886
B.) Synthesis of Alpha Bromo-N-Methyl-lauroyl lactosamine
Alpha-bromolauroyl chloride (2.4 g) was added drop-wise to a 30% aqueous solution of N-methyl-lactosamine (3.5 g) at zero degrees centigrade. The pH of the solution was maintained above 9 by the addition of a saturated aqueous sodium carbonate solution. The reaction was stirred overnight at room temperature. It was then heated up to 36° C. for an additional hour. The final product was obtained by extraction two times with n-butanol. The organic layer was dried with sodium sulfate and then rotevaporated under vacuum. The final product was taken for NMR analysis. The result confirmed that the solid material is the expected product. The yield of reaction was 80%.

reactant | Alpha-bromolauroyl chloride | 2.4 g | BrC(C(=O)Cl)CCCCCCCCCC | C12H22BrClO
reactant | N-methyl-lactosamine | 3.5 g | CN[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CO | C13H25NO10
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
product | Alpha Bromo-N-Methyl-lauroyl lactosamine | BrC(C(=O)C1(O)[C@H](NC)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO)CCCCCCCCCC | C25H46BrNO11
